US06492403B1
100 mg (0.404 mmol) of methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate (Maybridge Chemical Co. LTD., Cornwall, U.K.) was reacted with 2-bromo-3′,5′-dimethoxy acetophenone (0.444 mmol) in a manner similar to Example 22, step (a) to afford 44 mg (27% yield) of methyl 4-[4-(3,5-dimethoxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate.

reactant | methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate | 0.404 mmol, 100 mg | NC(C=1C=C(SC1C)C(=S)OC)=S | C8H9NOS3
reactant | 2-bromo-3′,5′-dimethoxy acetophenone | 0.444 mmol | BrCC(=O)C1=CC(=CC(=C1)OC)OC | C10H11BrO3
product | methyl 4-[4-(3,5-dimethoxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate | 44 mg, 27% yield | COC=1C=C(C=C(C1)OC)C=1N=C(SC1)C=1C=C(SC1C)C(=S)OC | C18H17NO3S3
